US06908999B2
(RS)-{2-[4-(α-phenyl-p-chlorobenzyl)-piperazin-1-yl]ethoxy}-acetic acid dihydrochloride
The procedure described in Example 13 is followed with the difference that, instead of the (RS)-N,N-dimethyl-{2-[4-(α-phenyl-p-chloro-benzyl)piperazin-1-yl]ethoxy}-acetamide dihydrochloride, 106.4 g (0.2 moles) of (RS)-N,N-dimethyl-{2-[4-(α-phenyl-p-chloro-benzyl)piperazin-1-yl]ethoxy}-acetamide fumarate is used, and, after adjusting the pH of the reaction mixture to 3.8, the precipitated fumaric acid is filtered to facilitate the extraction with dichloromethane. Thus, 71.8 g (77.8%) of the title compound are obtained, m.p.: 225-228° C. The purity of the product corresponds to the quality requirements given in Eur. Pharm., 3, 1997, 1084.

reactant | (RS)-N,N-dimethyl-{2-[4-(α-phenyl-p-chloro-benzyl)piperazin-1-yl]ethoxy}-acetamide dihydrochloride | Cl.Cl.CN(C(COCCN1CCN(CC1)C(C1=CC=C(C=C1)Cl)C1=CC=CC=C1)=O)C
reactant | (RS)-N,N-dimethyl-{2-[4-(α-phenyl-p-chloro-benzyl)piperazin-1-yl]ethoxy}-acetamide fumarate | 0.2 moles, 106.4 g | C(\C=C\C(=O)O)(=O)O.CN(C(COCCN1CCN(CC1)C(C1=CC=C(C=C1)Cl)C1=CC=CC=C1)=O)C
product | (RS)-{2-[4-(α-phenyl-p-chlorobenzyl)-piperazin-1-yl]ethoxy}-acetic acid dihydrochloride | 71.8 g, 77.8% | Cl.Cl.C1(=CC=CC=C1)C(C1=CC=C(C=C1)Cl)N1CCN(CC1)CCOCC(=O)O | InChI=1S/C21H25ClN2O3.2ClH/c22-19-8-6-18(7-9-19)21(17-4-2-1-3-5-17)24-12-10-23(11-13-24)14-15-27-16-20(25)26;;/h1-9,21H,10-16H2,(H,25,26);2*1H
